MM8 (net9 net9 VSS VSS) nmos4
MM7 (net20 net9 VSS VSS) nmos4
MM3 (net20 net20 net16 VSS) nmos4
MM0 (net11 net13 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM6 (net9 net11 VDD VDD) pmos4
MM5 (net20 net20 VDD VDD) pmos4
MM1 (net20 net20 VDD VDD) pmos4
MM2 (net11 net11 VDD VDD) pmos4
MM0 (VB1 net1005 VSS VSS) nmos4
MM8 (net1005 net1005 VSS VSS) nmos4
MM3 (VB1 VB1 VDD VDD) pmos4
MM10 (net1005 net1006 VDD VDD) pmos4
RR0 (VDD net6) resistor
RR1 (net1006 VSS) resistor
MM2 (net1006 net1006 net6 VDD) pmos4
C1 (VOUT1 VSS) capacitor
C0 (VIN1 VSS) capacitor
M1 (net13 net20 VOUT1 VOUT1) pmos4
M0 (net10 VCONT1 VIN1 VIN1) pmos4
M3 (net13 VCONT3 VSS VSS) nmos4
M2 (net10 VCONT2 VSS VSS) nmos4
L0 (net10 net13) inductor